US05532258
A mixture of N-(4-chloroacetyl-2-methylbenzyl)acetamide (3.6 g) and (diaminomethylene)thiourea (2.3 g) in ethanol (100 ml) was refluxed for 2 hours under stirring. The reaction mixture was evaporated in vacuo and the residue was suspended in water and resultant mixture was adjusted to pH 8.0 with 20% potassium carbonate aqueous solution and the precipitate was collected by filtration. The precipitate was dissolved in a mixture of ethyl acetate and tetrahydrofuran, washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was recrystallized from ethanol to give 2-(diaminomethyleneamino)-4-(4-acetylaminomethyl-3-methylphenyl)thiazole (3.15 g).

reactant | N-(4-chloroacetyl-2-methylbenzyl)acetamide | 3.6 g | ClCC(=O)C1=CC(=C(CNC(C)=O)C=C1)C | C12H14ClNO2
reactant | (diaminomethylene)thiourea | 2.3 g | NC(N)=NC(=S)N | C2H6N4S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(diaminomethyleneamino)-4-(4-acetylaminomethyl-3-methylphenyl)thiazole | 3.15 g | NC(N)=NC=1SC=C(N1)C1=CC(=C(C=C1)CNC(C)=O)C | C14H17N5OS
